### PR TITLE
[Merged by Bors] - refactor(LpSeminorm/Basic, LpSpace/Basic): generalise more lemmas to enorms

### PR DESCRIPTION
**Pull request by grunweg**
Continuation of #24356, part of #24352.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LpSpace/Basic.lean [hunk 1]
```diff
@@ -445,7 +445,6 @@ instance instIsScalarTower [SMul 𝕜 𝕜'] [IsScalarTower 𝕜 𝕜' E] : IsSc
   smul_assoc k k' f := Subtype.ext <| smul_assoc k k' (f : α →ₘ[μ] E)
 
 instance instIsBoundedSMul [Fact (1 ≤ p)] : IsBoundedSMul 𝕜 (Lp E p μ) :=
-  -- TODO: add `IsBoundedSMul.of_nnnorm_smul_le`
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/LpSpace/Basic.lean:448]: This still applies, but for `enorm_smul_le`, right?

Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSpace/Basic.lean:448]: Fair point; I added the enorm version :-)

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Function/LpSpace/Basic.lean:448]: Isn't the point to use the new definition here?

Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSpace/Basic.lean:448]: Sure; I have golfed the proof now

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 2]
```diff
@@ -493,13 +493,39 @@ theorem eLpNorm_norm (f : α → F) : eLpNorm (fun x => ‖f x‖) p μ = eLpNor
...
+    have h_rpow_surj := (ENNReal.rpow_left_bijective hq_pos.ne.symm).2
+    let iso := h_rpow_mono.orderIsoOfSurjective _ h_rpow_surj
+    exact (iso.essSup_apply (fun x => ‖f x‖ₑ) μ).symm
+  rw [eLpNorm_eq_eLpNorm' h0 hp_top, eLpNorm_eq_eLpNorm' _ _]
+  swap
+  · refine mul_ne_zero h0 ?_
+    rwa [Ne, ENNReal.ofReal_eq_zero, not_le]
+  swap; · exact ENNReal.mul_ne_top hp_top ENNReal.ofReal_ne_top
+  rw [ENNReal.toReal_mul, ENNReal.toReal_ofReal hq_pos.le]
+  exact eLpNorm'_enorm_rpow f p.toReal q hq_pos
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:527]: Is it worth it to prove the next lemma from this one? ("no" is a valid answer)
also elsewhere

**Review by fpvandoorn — COMMENTED** [review]
LGTM

bors d+

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:527]: Ah, you mean because for f into a seminormed group, its enorm will be finite anyway? I'll give it a try (presumably not today), good idea!

Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:527]: I tried that, and it's less fun than I'd like. Let me push that into a follow-up (#24814), and land this PR now.

**Comment by grunweg** [comment]
bors merge
